US06977262B2
Ethyl 4-(2,1,3-benzoxadiazol-4-yl)-6-ethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2,1,3-benzoxadiazole-4-aldehyde, 3-aminopyrazole and ethyl 3-ketopentanoate in the same manner as in Example 1.

reactant | 2,1,3-benzoxadiazole-4-aldehyde | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketopentanoate | O=C(CC(=O)OCC)CC | C7H12O3
product | Ethyl 4-(2,1,3-benzoxadiazol-4-yl)-6-ethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C(=O)OCC)CC)=NNC1 | C17H17N5O3
